US07273865B2
N-(7-Methoxy-4-morpholin-4-yl-thiazolo[5,4-c]pyridin-2-yl)-4-morpholin-4-ylmethyl-benzamide
From 7-methoxy-4-morpholin-4-yl-thiazolo[5,4-c]pyridin-2-ylamine with 4-(chloromethyl)benzoyl chloride and N-ethyldiisopropylamine in 1,2-dichloroethane and THF; then subsequent treatment with morpholine. ES-MS m/e (%): 470 (M+H+, 100).

reactant | 7-methoxy-4-morpholin-4-yl-thiazolo[5,4-c]pyridin-2-ylamine | COC=1C2=C(C(=NC1)N1CCOCC1)SC(=N2)N | C11H14N4O2S
reactant | 4-(chloromethyl)benzoyl chloride | ClCC1=CC=C(C(=O)Cl)C=C1 | C8H6Cl2O
reactant | N-ethyldiisopropylamine | C(C)N(C(C)C)C(C)C | C8H19N
reactant | morpholine | N1CCOCC1 | C4H9NO
solvent | 1,2-dichloroethane | ClCCCl | C2H4Cl2
solvent | THF | C1CCOC1 | C4H8O
product | N-(7-Methoxy-4-morpholin-4-yl-thiazolo[5,4-c]pyridin-2-yl)-4-morpholin-4-ylmethyl-benzamide | COC=1C2=C(C(=NC1)N1CCOCC1)SC(=N2)NC(C2=CC=C(C=C2)CN2CCOCC2)=O | C23H27N5O4S
